US06969716B2
5′-Acetyl-4,2′-difluorobiphenyl-2-carbonitrile
To a degassed solution of 1-[4-fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]ethanone (12 g, 45.43 mmol), 2-bromo-5-fluorobenzonitrile (9.09 g, 5.28 ml, 45.44 mmol), potassium fluoride (7.92 g, 136.31 mmol) and tris(dibenzylideneacetone)palladium(0) (0.834 g, 0.908 mmol) in THF (200 ml) and water (10 ml) was added tri-tert butylphosphine (10% weight solution) (0.368 g, 3.63 ml, 1.817 mmol). The reaction was heated at 70° C. for 14 h then allowed to cool to ambient temperature. The reaction was partitioned between water (200 ml) and ether (300 ml). The aqueous phase was extracted with ether (150 ml) and the combined organics washed with brine (200 ml), dried (MgSO4), filtered and evaporated to give a brown solid. The solid was dissolved in DCM and adsorbed onto silica. The crude product was chromatographed on silica (5-20% EtOAc in isohexane) to give the title product as a white solid (6.8 g): δH (400 MHz, CDCl3) 2.63 (3H, s), 7.31 (1H, t, J 9.0 Hz), 7.40-7.44 (1H, m), 7.50-7.53 (2H, m), 8.02-8.10 (2H, m).

reactant | 1-[4-fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]ethanone | 45.43 mmol, 12 g | FC1=C(C=C(C=C1)C(C)=O)B1OC(C(O1)(C)C)(C)C | C14H18BFO3
reactant | 2-bromo-5-fluorobenzonitrile | 45.44 mmol, 5.28 ml, 9.09 g | BrC1=C(C#N)C=C(C=C1)F | C7H3BrFN
reactant | potassium fluoride | 136.31 mmol, 7.92 g | [F-].[K+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | tri-tert butylphosphine | 1.817 mmol, 3.63 ml, 0.368 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | 5′-Acetyl-4,2′-difluorobiphenyl-2-carbonitrile | 6.8 g | C(C)(=O)C=1C=CC(=C(C1)C=1C(=CC(=CC1)F)C#N)F | C15H9F2NO
